US05574042
To a solution of 8-(2,6-dichlorobenzyloxy)-2-methylimidazo[1,2-a]pyridine (100 mg) in ethanol (2 ml) was added in one portion N-chlorosuccinimide (65.3 mg) at ambient temperature. After stirring for 1 hour at the same temperature, water was added thereto, and the mixture was extracted with methylene chloride. The organic layer was washed with brine, dried and concentrated in vacuo. The residue was subjected to a column chromatography on silica gel eluting with 1% solution of methanol in methylene chloride. The desired residue was recrystallized with a mixture of benzene and n-hexane to give 3-chloro-8-(2,6-dichlorobenzyloxy)-2-methylimidazo[1,2-a]pyridine (63 mg).

reactant | 8-(2,6-dichlorobenzyloxy)-2-methylimidazo[1,2-a]pyridine | 100 mg | ClC1=C(COC=2C=3N(C=CC2)C=C(N3)C)C(=CC=C1)Cl | C15H12Cl2N2O
reactant | N-chlorosuccinimide | 65.3 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | O | H2O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 3-chloro-8-(2,6-dichlorobenzyloxy)-2-methylimidazo[1,2-a]pyridine | 63 mg | ClC1=C(N=C2N1C=CC=C2OCC2=C(C=CC=C2Cl)Cl)C | C15H11Cl3N2O
